* R04E21 - phase-1 handoff: does R04E3's own event-gated local
* commutation chain avoid its own documented COMMUTATE_HIGH_TO_ZVS stall
* when phase 1 starts from R04E17's own real bootstrapped state instead
* of true zero energy? See BOUNDARY.md for the full scope statement,
* provenance and explicit limitations (Section 0/4/8: this is a narrow
* phase-1-only test, NOT a four-phase handoff and NOT a P24 periodicity
* claim).
*
* Literal starting template: paper_locked/02_ectc2024_main/spice/
* R04E3_P24_minimal_zero_start_event_cycle.cir (read-only, never
* modified). Changes relative to that file, per BOUNDARY.md Section 2:
*   1. CFLY corrected from R04E3's own 4*10u+2*4.7u+2*2.2u=53.8uF to
*      3uF (R04E8's own corrected middle value, matching R04E16/R04E17's
*      own bootstrap Cfly) -- REQUIRED so the bootstrapped state is
*      physically consistent with the circuit receiving it.
*   2. Phase 1's own initial conditions: CS1 (a1/x1 flying cap) gets
*      ic={VC1_IC} instead of ic=0; L1 gets ic={IL1_IC} instead of ic=0.
*      VC1_IC/IL1_IC are R04E17's own e17_div_f3_t68p61 cell's actual
*      VC1_FINAL/IL1_AT_TSTOP values at TSTOP=368.61us, extracted in
*      this experiment's own Step 1 (re-running R04E17's own unmodified
*      cell with one added .meas line; see RESULTS.md Section "Step 1"
*      for the full verification that every one of R04E17's own already-
*      published .meas values reproduced exactly before these values
*      were trusted).
*   3. Everything else is UNCHANGED from R04E3's own file: the 5-state
*      .machine block, I_LIMIT=10, NEG_FRAC=.02, LPHASE, COUT=4.672m,
*      GS61008T device data, TRAIL=10p, all phase 2-4 hardcoded gate
*      drives (VGL2/VGH2/VGH3/VGH4/VGL3/VGL4), all .meas statements,
*      .options, .tran. Phases 2-4's own capacitors/inductors (CH1,
*      CL1, CS2, CS3, L2-4) keep ic=0 per BOUNDARY.md Section 4 --
*      deliberately NOT bootstrapped, a stated scope limit, not an
*      oversight.

.include ../../../../paper_locked/04_component_models/GS61008T_typical_params.lib
.param VIN=48 VOUT_REF=1 POUT_MODULE=250 NP=4 NM=4
.param LPHASE=1.466666666666667n CFLY=3u
.param COUT={8*220u+32*47u+64*22u} RLOAD={VOUT_REF*VOUT_REF/POUT_MODULE}
.param I_LIMIT=10 NEG_FRAC=.02 I_NEG={NEG_FRAC*I_LIMIT}
.param CH={GS61008T_COTR_0_50V} CL={2*GS61008T_COTR_0_50V}
.param RHS={GS61008T_RDS_TYP_25C} RLS={GS61008T_RDS_TYP_25C/2}
.param TRAIL=10p VGATE=5 RLDAMP=1u
* Phase-1 bootstrapped initial conditions, from R04E21's own Step 1
* (R04E17's own e17_div_f3_t68p61 cell re-run unmodified except one
* added .meas line, AT TSTOP=368.61us). VC1_IC = VC1_FINAL (matches
* R04E17's own already-published value to full precision, re-verified
* directly from the .raw trace this re-run produced). IL1_IC =
* IL1_AT_TSTOP (newly extracted; R04E17's own committed .meas set only
* had the IL1_MIN/IL1_MAX envelope, not this instantaneous value).
.param VC1_IC=35.8448 IL1_IC=0.111

VRAIL vin 0 PWL(0 0 {TRAIL} {VIN} 20u {VIN})
CCO out 0 {COUT} ic=0
RLOAD_MAIN out 0 {RLOAD}
XMOD vin out 0 gh1_cmd gl1_cmd SCB4P_P24_EVENT

* Physical-event state machine. State 5 is a deliberate P24 handoff blocker.
.machine 1p
.state ENERGY 0
.state HS_OFF_COMMUTATE_LOW 1
.state LOW_FREEWHEEL_TO_ZERO 2
.state LOW_BUILD_NEGATIVE 3
.state COMMUTATE_HIGH_TO_ZVS 4
.state BLOCK_P24_HANDOFF_UNKNOWN 5
.rule ENERGY HS_OFF_COMMUTATE_LOW I(XMOD:L1)>=I_LIMIT
.rule HS_OFF_COMMUTATE_LOW LOW_FREEWHEEL_TO_ZERO V(xmod:x1)<=0
.rule LOW_FREEWHEEL_TO_ZERO LOW_BUILD_NEGATIVE I(XMOD:L1)<=0
.rule LOW_BUILD_NEGATIVE COMMUTATE_HIGH_TO_ZVS I(XMOD:L1)<=-I_NEG
.rule COMMUTATE_HIGH_TO_ZVS BLOCK_P24_HANDOFF_UNKNOWN V(vin,xmod:a1)<=0
.output (state_mon) state
.output (gh1_cmd) VGATE*(state==ENERGY)
.output (gl1_cmd) VGATE*((state==LOW_FREEWHEEL_TO_ZERO)+(state==LOW_BUILD_NEGATIVE))
.endmachine

RSTATE state_mon 0 1k
RGH gh1_cmd 0 1k
RGL gl1_cmd 0 1k

.meas tran T_ENERGY_END WHEN V(state_mon)=.5 RISE=1
.meas tran IL1_ENERGY_END FIND I(XMOD:L1) WHEN V(state_mon)=.5 RISE=1
.meas tran T_LOW_SIDE_ZVS WHEN V(state_mon)=1.5 RISE=1
.meas tran T_IL1_ZERO WHEN V(state_mon)=2.5 RISE=1
.meas tran T_NEG_TARGET WHEN V(state_mon)=3.5 RISE=1
.meas tran T_HIGH_SIDE_ZVS WHEN V(state_mon)=4.5 RISE=1
.meas tran STATE_FINAL FIND V(state_mon) AT 20u
.meas tran IL1_MIN MIN I(XMOD:L1) FROM 0 TO 20u
.meas tran IL1_MAX MAX I(XMOD:L1) FROM 0 TO 20u
.meas tran VOUT_FINAL FIND V(out) AT 20u
.meas tran VC1_FINAL FIND V(xmod:a1,xmod:x1) AT 20u
.meas tran VC2_FINAL FIND V(xmod:a2,xmod:x2) AT 20u
.meas tran VC3_FINAL FIND V(xmod:a3,xmod:x3) AT 20u

.options plotwinsize=0 reltol=1e-5 abstol=1e-9 chgtol=1e-16 solver=alt cshunt=1e-15
.save V(state_mon) V(gh1_cmd) V(gl1_cmd) V(out) V(xmod:a1) V(xmod:x1) V(xmod:a2) V(xmod:x2) V(xmod:a3) V(xmod:x3) V(vin,xmod:a1) V(xmod:a1,xmod:x1) V(xmod:a2,xmod:x2) V(xmod:a3,xmod:x3) I(XMOD:L1)
.tran 0 20u 0 1n UIC

.subckt SCB4P_P24_EVENT vin out g gh1_in gl1_in
* Controller is a plug-in: power connections below match the existing stage.
BGH1 gh1 g V=V(gh1_in,g)
BGL1 gl1 g V=V(gl1_in,g)
VGL2 gl2 g {VGATE}
VGH2 gh2 g 0
VGH3 gh3 g 0
VGH4 gh4 g 0
VGL3 gl3 g 0
VGL4 gl4 g 0

SH1 vin a1 gh1 g SWH
CH1 vin a1 {CH} ic=0
CS1 a1 x1 {CFLY} ic={VC1_IC}
CL1 x1 g {CL} ic=0
SL1 x1 g gl1 g SWL
L1 x1 out {LPHASE} Rser={RLDAMP} ic={IL1_IC}
SH2 a1 a2 gh2 g SWH
CS2 a2 x2 {CFLY} ic=0
SL2 x2 g gl2 g SWL
L2 x2 out {LPHASE} Rser={RLDAMP} ic=0
SH3 a2 a3 gh3 g SWH
CS3 a3 x3 {CFLY} ic=0
SL3 x3 g gl3 g SWL
L3 x3 out {LPHASE} Rser={RLDAMP} ic=0
SH4 a3 x4 gh4 g SWH
SL4 x4 g gl4 g SWL
L4 x4 out {LPHASE} Rser={RLDAMP} ic=0

RNUM_A1 a1 g 1Meg
RNUM_X1 x1 g 1Meg
RNUM_A2 a2 g 1Meg
RNUM_X2 x2 g 1Meg
RNUM_A3 a3 g 1Meg
RNUM_X3 x3 g 1Meg
RNUM_X4 x4 g 1Meg
.model SWH SW(Ron={RHS} Roff=1T Vt=2.5 Vh=0)
.model SWL SW(Ron={RLS} Roff=1T Vt=2.5 Vh=0)
.ends SCB4P_P24_EVENT
.end
